US05476944
trans-[[2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]oxy]acetic acid (17)
Sodium hydride (0.33 g, 0.0138 mole) was added to a solution of trans-2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexanol (3.4 g, 0.0106 mole) in tetrahydrofuran (50 ml) at 0° C. After stirring the reaction mixture for 1.5 hours, the tetrahydrofuran was removed by rotary evaporation. Dimethyl sulfoxide (75 ml) was added followed by chloroacetic acid sodium salt (1.48 g, 0.0127 mole), and the reaction mixture was stirred at room temperature for 10 days. Water (100 ml) was added dropwise to the mixture followed by 10% hydrochloric acid (10 ml). The product was extracted twice with 200 ml of ethyl acetate. The combined ethyl acetate extracts were washed twice with 200 ml of water, dried over anhydrous sodium sulfate, filtered, and concentrated. The product was purified by chromatography on silica gel. The structure was supported by NMR and elemental analysis (378.6+1/4 mole H2O).

reactant | Sodium hydride | 0.0138 mole, 0.33 g | [H-].[Na+]
reactant | trans-2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexanol | 0.0106 mole, 3.4 g | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S[C@H]1[C@@H](CCCC1)O | C20H32OS
reactant | chloroacetic acid sodium salt | 0.0127 mole, 1.48 g | [Na+].ClCC(=O)[O-]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | 100 ml | O | H2O
solvent | H2O | 1/4 mole | O | H2O
product | trans-[[2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]oxy]acetic acid | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S[C@H]1[C@@H](CCCC1)OCC(=O)O | C22H34O3S
